US07214824B2
3(b): tert-Butyl (4-tert-butyl-3-methoxyphenoxy)acetate
To a suspension of 60% sodium hydride (96 mg, 2.4 mmol) in tetrahydrofuran (THF) (10 ml) was added 4-tert-butyl-3-methoxyphenol (360 mg, 2 mmol) at 0° C., followed by additional stirring for 30 minutes. Then, tert-butyl bromoacetate (468 mg, 2.4 mmol) was added and the mixture was refluxed at 80° C. for 1 hour. The reaction was then quenched with saturated aqueous solution of ammonium chloride and the crude product was extracted with ethylacetate. The organic layer was separated, washed with brine, dried over magnesium sulfate. Then, filtration, evaporation to remove the solvent under reduced pressure gave the residue, which was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and ethylacetate (20/1 to 4/1) to furnish 466 mg (79% yield) of the title compound as a white solid.

reactant | sodium hydride | 2.4 mmol, 96 mg | [H-].[Na+]
reactant | 4-tert-butyl-3-methoxyphenol | 2 mmol, 360 mg | C(C)(C)(C)C1=C(C=C(C=C1)O)OC | C11H16O2
reactant | tert-butyl bromoacetate | 2.4 mmol, 468 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl (4-tert-butyl-3-methoxyphenoxy)acetate | 466 mg, 79% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)OC(C)(C)C)C=C1)OC | C17H26O4
